US04992094
Preparation of 2-amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride
A suspension of 2-formamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide (99.4 g, 0.318 mols) in 500 mL of methanol, 500 mL of water, and 500 mL of aqueous HCl 10% is heated at 80° C. until all the solid has dissolved (one hour). The reaction mixture is concentrated to 1/3 of the volume and the resulting precipitate is filtered off. After drying the title product is obtained as a white solid, having mp 161°-165° C.

reactant | 2-formamido-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide | 0.318 mols, 99.4 g | C(=O)NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C | C14H20N2O4S
reactant | HCl | 500 mL | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 500 mL | O | H2O
product | 2-amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride | Cl.NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C | InChI=1S/C13H20N2O3S.ClH/c1-9(2)13(4,14)12(16)15-19(17,18)11-7-5-10(3)6-8-11;/h5-9H,14H2,1-4H3,(H,15,16);1H
